US07057051B2
N-(Phenyl)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxamide
Using essentially the same procedure as Example 36, Method A, but using phenyl isocyanate (0.023 mL, 0.21 mmol), 4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole (35 mg, 0.10 mmol) was converted to the title compound after purification by Prep TLC (25% ethyl acetate in hexanes). HPLC/MS: 456 (M+1), 458 (M+3); Rt=4.75 min.

reactant | phenyl isocyanate | 0.21 mmol, 0.023 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole | 0.10 mmol, 35 mg | ClC1=C(C=CC(=C1)Cl)C=1N=CN(C1C1=CC=C(C=C1)Cl)C | C16H11Cl3N2
product | N-(Phenyl)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxamide | C1(=CC=CC=C1)NC(=O)C=1N(C(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)C | C23H16Cl3N3O
